US07671060B2
5-[3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[(1-methylpyrazol-3-yl)carbamoyl]phenoxy]-N,N-dimethyl-pyrazine-2-carboxamide
A mixture of 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-N-(1-methylpyrazol-3-yl)benzamide (0.1 g, 0.29 mmol), 5-chloro-N,N-dimethyl-pyrazine-2-carboxamide (66 mg, 0.35 mmol) and potassium carbonate (81 mg, 0.59 mmol) in acetonitrile (5 mL) was stirred in a microwave reactor at 160° C. for 6 hours. The resulting mixture was reduced in vacuo and ethyl acetate (50 mL) added. The organics were washed with water (50 mL), brine (50 mL), dried (MgSO4), filtered and reduced in vacuo. The residue was chromatographed on silica, eluting with 10-100% ethyl acetate in isohexane to give the desired compound (52 mg).

reactant | 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-N-(1-methylpyrazol-3-yl)benzamide | 0.29 mmol, 0.1 g | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)F | C15H17F2N3O4
reactant | 5-chloro-N,N-dimethyl-pyrazine-2-carboxamide | 0.35 mmol, 66 mg | ClC=1N=CC(=NC1)C(=O)N(C)C | C7H8ClN3O
reactant | potassium carbonate | 0.59 mmol, 81 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-[3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-[(1-methylpyrazol-3-yl)carbamoyl]phenoxy]-N,N-dimethyl-pyrazine-2-carboxamide | 52 mg | FC(OC[C@H](C)OC=1C=C(OC=2N=CC(=NC2)C(=O)N(C)C)C=C(C1)C(NC1=NN(C=C1)C)=O)F | C22H24F2N6O5
